US06887874B2
A solution of 5-methoxy-2-methyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (950 mg, 3.14 mmol) and 40% aqueous sodium hydroxide (106 ml) in methanol (160 ml) was heated at reflux for 30 minutes. After cooling, the mixture was poured onto cooled water and extracted with ethyl acetate. The organic layer was separated, washed with water, brine, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography eluting with ethyl acetate/petroleum ether (1/1). The fractions containing the expected product were combined and evaporated to give 5-methoxy-2-methyl-1H-pyrrolo[2,3-b]pyridine (462 mg, 91%).

reactant | 5-methoxy-2-methyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 3.14 mmol, 950 mg | COC=1C=C2C(=NC1)N(C(=C2)C)S(=O)(=O)C2=CC=CC=C2 | C15H14N2O3S
reactant | sodium hydroxide | 106 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 160 ml | CO | CH4O
product | 5-methoxy-2-methyl-1H-pyrrolo[2,3-b]pyridine | 462 mg, 91% | COC=1C=C2C(=NC1)NC(=C2)C | C9H10N2O
